US08614209B2
5-(4-Fluoro-phenyl)-5-oxo-pentanoic acid (1 g, 5.10 mmol) and (S)-(+)-2-phenylglycinol (0.839 g, 6.12 mmol) in toluene (15 mL) together with 4 Å molecular sieves was heated at 140° C. under Dean-Stark conditions for 20 hours. The reaction mixture was filtered through Celite®, evaporated and the residue dissolved in ethyl acetate then re-evaporated. The crude material was purified by column chromatography eluting with 20-40% ethyl acetate in cyclohexane to afford (3S,8aS)-8a-(4-fluoro-phenyl)-3-phenyl-hexahydro-oxazolo[3,2-a]pyridin-5-one (1.08 g).

reactant | 5-(4-Fluoro-phenyl)-5-oxo-pentanoic acid | 5.10 mmol, 1 g | FC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11FO3
reactant | (S)-(+)-2-phenylglycinol | 6.12 mmol, 0.839 g | C1(=CC=CC=C1)[C@H](N)CO | C8H11NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (3S,8aS)-8a-(4-fluoro-phenyl)-3-phenyl-hexahydro-oxazolo[3,2-a]pyridin-5-one | 1.08 g | FC1=CC=C(C=C1)[C@]12N(C(CCC1)=O)[C@H](CO2)C2=CC=CC=C2 | C19H18FNO2
